US07977351B2
1-{3-[5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-5,7-dihydro-furo[3,4-b]pyridin-2-yl]-propyl}-piperidine-4-carboxylic acid
A solution of 5-fluoro-1,3-dihydro-indol-2-one (150 mg, 1.0 mmol) in THF (5 mL) at room temperature is treated with lithium bis(trimethylsilyl)amide (1.0 M solution in tetrahydrofuran, 2.0 mL, 2.0 mmol) and stirred for 10 min. A solution of 1-[3-(5-oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propyl]-piperidine-4-carboxylic acid ethyl ester (110 mg, 1 equiv) in anhydrous THF (2 mL) is added. The reaction mixture is stirred at room temperature for 3 h. The reaction mixture is poured into aqueous 2N HCl solution (10 mL) with stirring. Then it is heated at 60° C. for 2 h. To the mixture is then added ice water (100 mL) followed by the careful addition of saturated aqueous NaHCO3 to adjust the pH to 8. The foamy suspension is filtered and a greenish yellow solid is obtained. This material is purified by column chromatography to give the title compound as a yellow solid (48 mg, 33%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 1.0 mmol, 150 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | 2.0 mmol, 1.0 M, 2.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-[3-(5-oxo-5,7-dihydro-furo[3,4-b]pyridin-2-yl)-propyl]-piperidine-4-carboxylic acid ethyl ester | 110 mg, 1 equiv | C(C)OC(=O)C1CCN(CC1)CCCC1=CC=C2C(=N1)COC2=O | C18H24N2O4
reactant | HCl | 2N, 10 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{3-[5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidene)-5,7-dihydro-furo[3,4-b]pyridin-2-yl]-propyl}-piperidine-4-carboxylic acid | 48 mg, 33% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CCCN2CCC(CC2)C(=O)O | C24H24FN3O4
